US08080541B2
N-((cis)-2-Cyclopentylamino-cyclopentyl)-2-methylsulfanyl-4,6-bis-trifluoromethyl-benzamide
The title compound, light pink solid, MS: m/e=455.3 [(M+H)+], was prepared in accordance with the general method of example 5 from (1RS,2SR)-N-Cyclopentyl-cyclopentane-1,2-diamine (intermediate AE) and 2-methylthio-4,6-bis(trifluoromethyl)benzoic acid (CAS 896120-49-3).

reactant | (1RS,2SR)-N-Cyclopentyl-cyclopentane-1,2-diamine | C1(CCCC1)NC1C(CCC1)N | C10H20N2
reactant | 2-methylthio-4,6-bis(trifluoromethyl)benzoic acid | CSC1=C(C(=O)O)C(=CC(=C1)C(F)(F)F)C(F)(F)F | C10H6F6O2S
product | N-((cis)-2-Cyclopentylamino-cyclopentyl)-2-methylsulfanyl-4,6-bis-trifluoromethyl-benzamide | C1(CCCC1)N[C@@H]1[C@@H](CCC1)NC(C1=C(C=C(C=C1C(F)(F)F)C(F)(F)F)SC)=O | C20H24F6N2OS
